US06635640B2
2-Methyl-4-[3-(4-methylpiperazin-1-yl)-propyl]-5-(2-oxo-4-pyridin-2-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester
A mixture of 4-pyridin-2-yl-1,3-dihydroindol-2-one (31.5 mg, 0.15 mmol), 5-formyl-2-methyl-4-[3-(4-methylpiperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester (48.2 mg, 0.15 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated in a sealed tube at 70° C. for 6 hours. The reaction was concentrated and the residue was re-crystallized from ethyl acetate and hexane to give the title compound.

reactant | 4-pyridin-2-yl-1,3-dihydroindol-2-one | 0.15 mmol, 31.5 mg | N1=C(C=CC=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 5-formyl-2-methyl-4-[3-(4-methylpiperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 0.15 mmol, 48.2 mg | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=O)C | C17H27N3O3
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-Methyl-4-[3-(4-methylpiperazin-1-yl)-propyl]-5-(2-oxo-4-pyridin-2-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=C1C(NC2=CC=CC(=C12)C1=NC=CC=C1)=O)C | C30H35N5O3
